US08669361B2
Step 1: tricyclopropylbismuthane
Trichlorobismuthane (1.25 g; 3.96 mmol) was dissolved in anhydrous THF (50 mL) and cooled to −10° C. Cyclopropylmagnesium bromide (0.5M in THF, 15 mmol; 30 mL) was added via dropping funnel over 30 min, keeping the temperature at −10° C. The reaction mixture was stirred at RT for 1 h then heated at 70° C. for 30 min, at which time a black precipitate was observed. After cooling to RT, the solution was cannulated under nitrogen over a degassed biphasic solution of brine (100 ml) and ether (100 ml). The heterogeneous solution was stirred for 5 min, transferred to a separatory funnel and diluted with ether (50 ml). The organic phase was collected, dried over sodium sulfate, filtered and concentrated under reduced pressure to give a yellow oily solid. Ether (25 ml) was added followed by hexane (25 ml). The mixture was sonicated, cooled to 0° C., and filtered to collect the light yellow solid, tricyclopropylbismuthane (770 mg, 58%).

reactant | Trichlorobismuthane | 3.96 mmol, 1.25 g | Cl[Bi](Cl)Cl
reactant | Cyclopropylmagnesium bromide | 15 mmol, 0.5M, 30 mL | C1(CC1)[Mg]Br
reactant | hexane | 25 ml | CCCCCC | C6H14
reactant | THF | 50 mL | C1CCOC1 | C4H8O
solvent | brine | 100 ml | [Cl-].[Na+].O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | Ether | 25 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | tricyclopropylbismuthane | C1(CC1)[Bi](C1CC1)C1CC1 | InChI=1S/3C3H5.Bi/c3*1-2-3-1;/h3*1H,2-3H2;
